US07132434B2
b) 4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonic acid ((3S)-1-hydroxy-2,5-dioxo-pyrrolidin-3-yl)-amide
4-(4Trifluoromethyl-phenyl)-piperazine-1-sulfonic acid ((3S)-1-benzyloxy-2,5-dioxo-pyrrolidin-3-yl)-amid (67 mg; 0.13 mmol) was dissolved in EtOAc (4 ml) +MeOH (4 ml). A slurry of 10% Pd/C (30 mg) in MeOH (1 ml) was added under a stream of nitrogen. The mixture was hydrogenated at room temperature at 1 atm. pressure of H2 for 1 h. The reaction mixture was filtered through celite and the filtercake was washed with EtOAc and MeOH. The filtrate was evaporated and the crude product were purified twice by flash chromatography on Si-60-gel using EtOAc:Heptane (1:1) as eluent 1 to remove impurities, and EtOAc to elute the product. The fractions containing the product is evaporated and the residue is trituated with Et2O, the resulting colourless solid was dried to give the title compound. Obtained 20 mg (36% yield) of the title compound.

reactant | 4-(4Trifluoromethyl-phenyl)-piperazine-1-sulfonic acid ((3S)-1-benzyloxy-2,5-dioxo-pyrrolidin-3-yl)-amid | 0.13 mmol, 67 mg | C(C1=CC=CC=C1)ON1C([C@H](CC1=O)NS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C22H23F3N4O5S
solvent | EtOAc | 4 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 4 ml | CO | CH4O
solvent | MeOH | 1 ml | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonic acid ((3S)-1-hydroxy-2,5-dioxo-pyrrolidin-3-yl)-amide | ON1C([C@H](CC1=O)NS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C15H17F3N4O5S
